US08791102B2
Step (a) Triethyl orthoformate (16.6 mL, 100 mmol) and p-toluenesulfonic acid monohydrate (0.95 g, 5 mmol) were added to a solution of (S)-5-oxopyrrolidine-2-carboxylic acid (12.9 g, 100 mmol) in dry ethanol (100 mL). The solution was heated to reflux for 1.5 hours, distilling off ethyl formate (˜18 mL). The reflux was continued for 2.5 hours and then the mixture was concentrated by evaporation under reduced pressure. The residue was placed under vacuum at 50° C. for 30 minutes to remove residual solvent. The residue was dissolved in acetonitrile (80 mL) and the solution was cooled to 0° C. Di-tert-butyl dicarbonate (24 g, 110 mmol) and 4-(dimethylamino)pyridine (1.22 g, 10 mmol) were added to the solution and the mixture was stirred for 16 hours at ambient temperature. The mixture was concentrated and the residue was partitioned between methylene chloride (100 mL) and 0.1N hydrochloric acid (100 mL). The organic phase was separated, washed with water, saturated sodium bicarbonate and then brine, dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in hexane (100 mL) and methyl tert-butyl ether (50 mL) and the solution was seeded while stirring at ambient temperature to induce crystallization. The mixture was cooled to 0° C. and the solids were collected by cold filtration, washed with a single portion of hexane and dried to give (S)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate (14.9 g, 58%) as off-white fine needles. 1H NMR (400 MHz, CDCl3) δ 4.6 (dd, J=3.2, 9.6, 1H), 4.24 (q, J=7.2, 2H), 2.69-2.59 (m, 1H), 2.53-2.46 (m, 1H), 2.38-2.27 (m, 1H), 2.07-1.99 (m, 1H), 1.50 (s, 9H), 1.30 (t, J=7.2, 3H).

reactant | Triethyl orthoformate | 100 mmol, 16.6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | (S)-5-oxopyrrolidine-2-carboxylic acid | 100 mmol, 12.9 g | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | Di-tert-butyl dicarbonate | 110 mmol, 24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | 4-(dimethylamino)pyridine | 10 mmol, 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | p-toluenesulfonic acid monohydrate | 5 mmol, 0.95 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (S)-1-tert-butyl 2-ethyl 5-oxopyrrolidine-1,2-dicarboxylate | 14.9 g, 58% | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OCC | C12H19NO5
